US08859571B2
A solution of 3-amino-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide (3.0 g, 10.7 mmol) in i-PrOH (100 mL) was treated with 4-chloro-6-(methyloxy)-7-[(phenylmethyl)oxy]quinazoline (3.2 g, 10.7 mmol, prepared according to J. Med. Chem. (1999) 42 5369) and stirred at 80° C. for 2 hours before being concentrated. The residue was washed with petroleum ether and dried to give N-methyl-3-({6-(methyloxy)-7-[(phenylmethyl)oxy]-4-quinazolinyl}amino)-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide (4.2 g, 72%) as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.42 (br. s., 1 H), 8.75 (s, 1 H), 8.20 (s, 1 H), 7.80-7.84 (m, 2 H), 7.49-7.57 (m, 4 H), 7.35-7.49 (m, 4 H), 5.34 (s, 2 H), 4.91 (q, J=8.82 Hz, 2 H), 3.99 (s, 3 H), 2.45 (d, J=5.07 Hz, 3 H). MS (m/z) 549.1 (M+H+).

reactant | 3-amino-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide | 10.7 mmol, 3.0 g | NC=1C=C(C=CC1OCC(F)(F)F)S(=O)(=O)NC | C9H11F3N2O3S
reactant | 4-chloro-6-(methyloxy)-7-[(phenylmethyl)oxy]quinazoline | 10.7 mmol, 3.2 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1 | C16H13ClN2O2
solvent | i-PrOH | 100 mL | CC(C)O | C3H8O
product | N-methyl-3-({6-(methyloxy)-7-[(phenylmethyl)oxy]-4-quinazolinyl}amino)-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide | 4.2 g, 72% | CNS(=O)(=O)C1=CC(=C(C=C1)OCC(F)(F)F)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1 | C25H23F3N4O5S
